US04472381
N-t-butyloxycarbonyl-L-alanyl-N-(2-indanyl) glycyl-L-proline benzylester (2.72 g, 4.95 m mole) was dissolved in 4N hydrogen chloride dioxane solution (50 ml) and the mixture was stirred for 1 hour at room temperature. The solvent was distilled under reduced pressure from the solution, and thereby a sticky residue was obtained. After addition of ethyl ether the solution was filtered and a crystalline residue was obtained on the filter paper, and immediately dried in a desiccator to obtain a white powder of L-alanyl-N-(2-indanyl) glycyl-L-proline benzylester hydrochloride (2.31 g, 4.76 m mole, yield: 96%). This product had a hygrospic nature, and gave a single spot with Rf =0.42 by silica gel thin layer chromatography (developing solvent, chloroform:methanol:triethylamine=40:2:1, Colour forming method: spraying of 0.1% ninhydrin and heating).

reactant | N-t-butyloxycarbonyl-L-alanyl-N-(2-indanyl) glycyl-L-proline benzylester | 2.72 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CN(C1CC2=CC=CC=C2C1)C([C@@H](NC(=O)OC(C)(C)C)C)=O)=O)=O | C31H39N3O6
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | hydrogen chloride dioxane | 4N, 50 ml | O1CCOCC1.Cl
product | L-alanyl-N-(2-indanyl) glycyl-L-proline benzylester hydrochloride | 2.31 g, yield: 96% | Cl.C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C(CN(C1CC2=CC=CC=C2C1)C([C@@H](N)C)=O)=O)=O | InChI=1S/C26H31N3O4.ClH/c1-18(27)25(31)29(22-14-20-10-5-6-11-21(20)15-22)16-24(30)28-13-7-12-23(28)26(32)33-17-19-8-3-2-4-9-19;/h2-6,8-11,18,22-23H,7,12-17,27H2,1H3;1H/t18-,23-;/m0./s1
